*********************************************************************
*  (C)  Copyright  TOSHIBA CORPORATION  2016
*  Date                 :22/07/2016
*  File name            :1SS302A.lib
*  Part number          :1SS302A
*  Parameter ver.       :Ver.1
*  Simulator            :PSpice
*  Model call name      :1SS302A
*  TNOM                 :25 degree
*  Pin Assign           :1=Anode1 2=Cathode1&Anode2 3=Cathode2
*********************************************************************
.SUBCKT 1SS302A 1 2 3
D1 1 3 M1SS302A1_Q1
D2 3 2 M1SS302A1_Q2
.MODEL M1SS302A1_Q1 D (
+ IS = 1.8695e-09
+ N = 1.8864
+ RS = 1.4363
+ BV = 85
+ IBV = 1E-10
+ CJO =4.6969e-013
+ M = 0.10573
+ VJ = 1.4038
+ TT = 1.40e-09
+ TNOM = 25
+ XTI = 3.4504 )
.MODEL M1SS302A1_Q2 D (
+ IS = 1.8695e-09
+ N = 1.8864
+ RS = 1.4363
+ BV = 85
+ IBV = 1E-10
+ CJO = 1.7578e-12
+ M = 0.40129
+ VJ = 0.99998
+ TT = 1.4e-09
+ TNOM = 25
+ XTI = 3.4504 )
.ENDS
