*********************************************************************
*  (C)  Copyright  TOSHIBA CORPORATION  2016
*  Date                 :26/08/2016
*  File name            :1SS362FV.lib
*  Part number          :1SS362FV
*  Parameter ver.       :Ver.2
*  Simulator            :PSpice
*  Model call name      :1SS362FV
*  TNOM                 :25 degree
*  Pin Assign           :1=Anode1 2=Cathode2 3=Cathode1&Anode2
*
* Operation of this model has been verified only on the OrCAD.
*********************************************************************
.SUBCKT 1SS362FV 1 2 3
D1 1 3 1SS362FV
D2 3 2 1SS362FV 
.MODEL 1SS362FV D (
+ IS = 2.2267e-09
+ N = 1.895
+ RS = 1.1393
+ BV = 85
+ IBV = 1E-10
+ CJO = 8.5916e-013
+ M = 0.082618
+ VJ = 1.0298
+ TT = 1.6E-9
+ TNOM = 25
+ XTI = 3.5017 )
.ENDS
