* PSpice Model Editor - Version 16.6.0
*$
* BA2902
*
* Rev.002 2016.Feb
*
* Ground Sense Operational Amplifier 'Macromodel' Subcircuit
*
* All Rights Reserved Copyright (c) ROHM CO., LTD.
*
.subckt BA2902 OUT1 -IN1 +IN1 VCC +IN2 -IN2 OUT2 OUT3 -IN3 +IN3 VEE +IN4 -IN4 OUT4
X_U1 +IN1 -IN1 VCC VEE OUT1 ba2902_sub
X_U2 +IN2 -IN2 VCC VEE OUT2 ba2902_sub
X_U3 +IN3 -IN3 VCC VEE OUT3 ba2902_sub
X_U4 +IN4 -IN4 VCC VEE OUT4 ba2902_sub
.ends
*$
.SUBCKT ba2902_sub +IN -IN VCC VEE OUT
Q_Q33         N175124 N174882 VCC QP1 2
Q_Q45         N179984 N174882 VCC QP1 1.18
R_R5         OUT N175762  22.5 TC=0.0013,0 
Q_Q32         N175124 N175088 VEE QN1 1
Q_Q42         VEE N179984 N174763 QP1 1
Q_Q4         VEE -IN N165130 QP2 30
Q_Q48         N187704 N168651 VCC QP1 0.8
Q_Q34         VEE N175124 OUT QP1 6
Q_Q9         N165977 N165977 VEE QN1 2
Q_Q46         N175124 N175124 N175909 QN1 30
Q_Q29         VEE N165981 N166538 QP1 1
Q_Q37         N175909 N175762 N175928 QN1 15
Q_Q38         VCC N175124 N175798 QN1 30
Q_Q2         N165981 N165380 N164947 QP1 1
Q_Q10         N165981 N165977 VEE QN1 2
Q_Q17         N166538 N174882 VCC QP1 0.2
Q_Q30         N174763 N166538 N175088 QN1 4
Q_Q43         N175762 N179984 VEE QN1 30
Q_Q15         N164947 N168651 VCC QP1 0.11
Q_Q39         VCC N175798 N175762 QN1 60
Q_Q47         VEE N165977 N187704 QP1 1
Q_Q1         N165977 N165130 N164947 QP1 1.006
Q_Q44         N179984 N179984 VEE QN1 15
R_R6         OUT N175928  900 TC=0.001,0 
Q_Q16         N165380 N168651 VCC QP1 0.8
C_C1         N165981 N175124  5p  TC=0,0 
Q_Q14         N165130 N168651 VCC QP1 0.8
Q_Q7         VEE +IN N165380 QP3 30
Q_Q31         N174763 N174882 VCC QP1 0.2
R_R7         N175762 N175798  50k TC=0.001,0 
Q_Q50         N174882 N174882 VCC QP1 1
Q_Q49         N168651 N168651 VCC QP1 1
R_R20         VEE N215189  10 TC=-0.0002,-0.000015 
I_I5         VEE N215189 DC 1uAdc  
G_G1         N168651 VEE N215189 VEE 1
G_G2         N174882 VEE N216537 VEE 1
I_I6         VEE N216537 DC 1uAdc  
R_R21         VEE N216537  20 TC=-0.0002,-0.000022 
Q_Q51         VEE N174882 VCC QP1 0.01
*
*
*
.model QN1 npn
+ is=5e-017
+ bf=400
+ nf=1
+ vaf=100
+ ikf=0.001
+ cjc=9e-14
*
.model QP1 pnp
+ is=7e-015
+ bf=1600
+ nf=1
+ vaf=70
+ ikf=2.3e-005
+ xti=7
*
.model QP2 pnp
+ is=5e-019
+ bf=400
+ nf=1
+ vaf=300
+ ikf=2e-005
+ xti=0
*
.model QP3 pnp
+ is=5e-019
+ bf=400
+ nf=1
+ vaf=300
+ ikf=2e-005
+ xti=0.04
.ends
*$
