***********************************************************
* BAV99 (3-pin package model, SOT-23 pin mapping)
*
* Pin mapping (matches package):
*   1 = Anode of D1
*   2 = Cathode of D2
*   3 = Cathode of D1 / Anode of D2 (middle junction)
*
* This wraps the vendor's 2-terminal diode macro twice:
*   D1 section is between pins 1 and 3
*   D2 section is between pins 3 and 2
***********************************************************

.SUBCKT BAV99_3PIN 1 2 3

* ----- Diode section D1: Pin1 (A) -> Pin3 (K) -----
R1A 1 3 5E+009
D1A 1 3 DIODE1
D2A 1 3 DIODE2

* ----- Diode section D2: Pin3 (A) -> Pin2 (K) -----
R1B 3 2 5E+009
D1B 3 2 DIODE1
D2B 3 2 DIODE2

.MODEL DIODE1 D
+ IS = 3.2E-009
+ N = 1.85
+ BV = 128
+ IBV = 5E-005
+ RS = 1.6
+ CJO = 6E-013
+ VJ = 0.0001
+ M = 0.02
+ FC = 0.5
+ TT = 0
+ EG = 1.1
+ XTI = 3

.MODEL DIODE2 D
+ IS = 3E-013
+ N = 1.1
+ RS = 280

.ENDS BAV99_3PIN