*
* File: LM324Q_QUAD.lib
* Description: SPICE model for a Quad Op-Amp (LM324) package.
* It includes the subcircuit for the single op-amp (LM324)
* and a top-level subcircuit for the quad package (LM324Q).
*
************************************************************************
** 1. SINGLE OP-AMP MODEL (Provided by the user)
************************************************************************
* CONNECTIONS FOR SINGLE OP-AMP LM324:
* 1 INVERTING INPUT
* 2 NON-INVERTING INPUT
* 3 OUTPUT
* 4 POSITIVE POWER SUPPLY (V+)
* 5 NEGATIVE POWER SUPPLY (V-)
.SUBCKT LM324 1 2 3 4 5
***************************
.MODEL MDTH D IS=1E-8 KF=3.104131E-15 CJO=10F
* INPUT STAGE
CIP 2 5 1.000000E-12
CIN 1 5 1.000000E-12
EIP 10 5 2 5 1
EIN 16 5 1 5 1
RIP 10 11 2.600000E+01
RIN 15 16 2.600000E+01
RIS 11 15 2.003862E+02
DIP 11 12 MDTH 400E-12
DIN 15 14 MDTH 400E-12
VOFP 12 13 DC 0
VOFN 13 14 DC 0
IPOL 13 5 1.000000E-05
CPS 11 15 3.783376E-09
DINN 17 13 MDTH 400E-12
VIN 17 5 0.000000e+00
DINR 15 18 MDTH 400E-12
VIP 4 18 2.000000E+00
FCP 4 5 VOFP 3.400000E+01
FCN 5 4 VOFN 3.400000E+01
FIBP 2 5 VOFN 2.000000E-03
FIBN 5 1 VOFP 2.000000E-03
* AMPLIFYING STAGE
FIP 5 19 VOFP 3.600000E+02
FIN 5 19 VOFN 3.600000E+02
RG1 19 5 3.652997E+06
RG2 19 4 3.652997E+06
CC 19 5 6.000000E-09
DOPM 19 22 MDTH 400E-12
DONM 21 19 MDTH 400E-12
HOPM 22 28 VOUT 7.500000E+03
VIPM 28 4 1.500000E+02
HONM 21 27 VOUT 7.500000E+03
VINM 5 27 1.500000E+02
EOUT 26 23 19 5 1
VOUT 23 5 0
ROUT 26 3 20
COUT 3 5 1.000000E-12
DOP 19 25 MDTH 400E-12
VOP 4 25 2.242230E+00
DON 24 19 MDTH 400E-12
VON 24 5 7.922301E-01
.ENDS LM324

************************************************************************
** 2. QUAD OP-AMP PACKAGE MODEL
************************************************************************
* CONNECTIONS FOR QUAD OP-AMP LM324Q PACKAGE:
* 1: OUT_A, 2: IN-_A, 3: IN+_A, 4: V+, 5: IN+_B, 6: IN-_B, 7: OUT_B
* 8: OUT_C, 9: IN-_C, 10: IN+_C, 11: V-, 12: IN+_D, 13: IN-_D, 14: OUT_D
.SUBCKT LM324Q 1 2 3 4 5 6 7 8 9 10 11 12 13 14
*
* Op-Amp A (Pins 1, 2, 3)
* Syntax: X[InstanceName] [IN-] [IN+] [OUT] [V+] [V-] [ModelName]
X_A 2 3 1 4 11 LM324
*
* Op-Amp B (Pins 5, 6, 7)
X_B 6 5 7 4 11 LM324
*
* Op-Amp C (Pins 9, 10, 8)
X_C 9 10 8 4 11 LM324
*
* Op-Amp D (Pins 13, 12, 14)
X_D 13 12 14 4 11 LM324
*
.ENDS LM324Q