 * Piezoelectric sensor response for SPICE
* Usage: Place this voltage source in your circuit
* V1 node1 node2 VALUE={V0 * exp(-alpha * (time - td)) * sin(omega * sqrt(1-zeta^2) * (time - td)) * (time > td)}
* Where:
*   V0 = peak voltage (e.g., 1V)
*   alpha = damping * omega
*   omega = 2 * pi * f
*   f = resonant frequency (e.g., 1000 Hz)
*   zeta = damping ratio (e.g., 0.1)
*   td = time delay before response starts

* Example SPICE netlist:
.param V0=1
.param f=1000
.param zeta=0.1
.param omega=2*pi*f
.param alpha=zeta*omega
.param td=1m

* Voltage source with piezo response
V1 out 0 VALUE={V0 * exp(-alpha * (time - td)) *
+    sin(omega * sqrt(1-zeta^2) * (time - td)) *
+    (time > td)}

* Load resistor
R1 out 0 10k

* Analysis commands
.tran 0.01m 10m   ; 10ms simulation with 0.01ms step
.probe v(out)
.end
